US08865698B2
Step C: Preparation of (R)—N-(5-(2-(2-chloro-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide:
To a DCM (0.8 mL) solution of (R)-5-(2-(2-chloro-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (30 mg, 0.090 mmol) was added CDI (29 mg, 0.18 mmol) at ambient temperature in one portion. After stirring two hours, azetidin-3-ol hydrochloride (20 mg, 0.18 mmol) was added in one portion, followed by addition of DIEA (0.047 mL, 0.27 mmol). The reaction was stirred for 5 minutes before it was concentrated and directly purified by reverse-phase column chromatography, eluting with 5 to 50% acetonitrile/water to yield the final product as a yellowish foamy powder (33 mg, 85% yield). MS (apci) m/z=431.1 (M+H).

reactant | (R)-5-(2-(2-chloro-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.090 mmol, 30 mg | ClC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15ClFN5
reactant | CDI | 0.18 mmol, 29 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | azetidin-3-ol hydrochloride | 0.18 mmol, 20 mg | Cl.N1CC(C1)O
reactant | DIEA | 0.27 mmol, 0.047 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(5-(2-(2-chloro-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide | 33 mg, 85% yield | ClC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CC(C2)O | C20H20ClFN6O2
